US04141895
A mixture of 41.1 g (0.15 mole) of N-methyl-N-(2-benzoyl-4-chlorophenyl)formamide, 90 ml methanol, 90 g anhydrous ammonia, and 0.5 g zinc chloride was heated in a sealed 360 ml Hastelloy® tube at 150° for 15 hr. and then cooled and vented. The solid portion of the residue was collected on a filter and recrystallized from methanol to give 27.8 g (76%) of 5-chloro-2-methylaminobenzophenone imine as long yellow needles: mp 93°-95°; 1H nmr (CDCl3) δ 2.92 ppm (d, J = 5.5 Hz, 3H), 6.65 ppm (d, J = 9 Hz, 1H) 7.4 ppm (m, 7H) and 9.4 ppm (broad, 2NH).

reactant | N-methyl-N-(2-benzoyl-4-chlorophenyl)formamide | 0.15 mole, 41.1 g | CN(C=O)C1=C(C=C(C=C1)Cl)C(C1=CC=CC=C1)=O | C15H12ClNO2
reactant | ammonia | 90 g | N | H3N
catalyst | zinc chloride | 0.5 g | [Cl-].[Zn+2].[Cl-]
solvent | methanol | 90 ml | CO | CH4O
product | 5-chloro-2-methylaminobenzophenone imine | 27.8 g, 76% | ClC=1C=CC(=C(C(C2=CC=CC=C2)=N)C1)NC | C14H13ClN2
